US04978663
5-Bromo-2-(triisopropylsilyloxy)pyridine
Triisopropylsilyl trifluoromethanesulfonate (65.4 g) was added dropwise to a solution of 5-bromo-2(1H)-pyridinone (33.8 g) and 2,6-lutidine (31.1 g) in 775 ml of dichloromethane at 0° C. The resulting solution was stirred for 15 minutes, and then it was poured into water and the layers were separated. The aqueous phase was extracted with dichloromethane, and the combined organic layers were dried over magnesium sulfate and concentrated to give a liquid. The product was slurried with silica gel and hexanes. Filtration gave 64.6 g of oil.

reactant | Triisopropylsilyl trifluoromethanesulfonate | 65.4 g | FC(S(=O)(=O)O[Si](C(C)C)(C(C)C)C(C)C)(F)F | C10H21F3O3SSi
reactant | 5-bromo-2(1H)-pyridinone | 33.8 g | BrC=1C=CC(NC1)=O | C5H4BrNO
reactant | 2,6-lutidine | 31.1 g | N1=C(C=CC=C1C)C | C7H9N
reactant | water | O | H2O
solvent | dichloromethane | 775 ml | ClCCl | CH2Cl2
product | 5-Bromo-2-(triisopropylsilyloxy)pyridine | 64.6 g | BrC=1C=CC(=NC1)O[Si](C(C)C)(C(C)C)C(C)C | C14H24BrNOSi
